US08076516B2
Reaction of 3-bromo-2-fluorobenzaldehyde with acetonitrile gave 3-(3-bromo-2-fluorophenyl)-3-hydroxypropanenitrile as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.54 (t, J=7.2 Hz, 2H), 7.11 (td, J=7.6, 0.4 Hz, 1H), 5.37 (dd, J=6.8, 4.4 Hz, 1H), 2.73-2.91 (m, 2H).

reactant | 3-bromo-2-fluorobenzaldehyde | BrC=1C(=C(C=O)C=CC1)F | C7H4BrFO
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-bromo-2-fluorophenyl)-3-hydroxypropanenitrile | BrC=1C(=C(C=CC1)C(CC#N)O)F | C9H7BrFNO
